US08003647B2
3-Cyano-1H-indole-5-carboxylic acid benzyl ester
To a solution of 3-formyl-1H-indole-5-carboxylic acid benzyl ester (4.3 g) and pyridine (4.8 g) in tetrahydrofuran (60 ml) was added hydroxylamine hydrochloride (1.6 g) at room temperature and this mixture was stirred at 80° C. overnight. Acetic anhydride was added to reaction mixture at the same temperature and this mixture was stirred for 8 hours. After cooling to ambient temperature, 1 mol/L sodium hydroxide solution (20 mL) was added to this mixture and resulting mixture was extracted with diethyl ether. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and this residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (2.8 g).

reactant | 3-formyl-1H-indole-5-carboxylic acid benzyl ester | 4.3 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(=CNC2=CC1)C=O | C17H13NO3
reactant | hydroxylamine hydrochloride | 1.6 g | Cl.NO
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 1 mol/L, 20 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | pyridine | 4.8 g | N1=CC=CC=C1 | C5H5N
product | 3-Cyano-1H-indole-5-carboxylic acid benzyl ester | 2.8 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(=CNC2=CC1)C#N | C17H12N2O2
